US08110585B2
methyl 3-(acetylamino)-2-iodobenzoate
To a solution of methyl 3-amino-2-iodobenzoate (70.0 g, 253 mmol) in methylene chloride (1000 mL) was added triethylamine (52.8 mL, 379 mmol) and the mixture was stirred at 0° C. for 30 min. To the reaction mixture was added acetyl chloride (35.9 mL, 505 mmol) at 0° C. and the mixture was stirred at room temperature for 4 hr. The reaction mixture was diluted with water, and extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane=1/10) to give the title compound (76.6 g, yield 95%).

reactant | methyl 3-amino-2-iodobenzoate | 253 mmol, 70.0 g | NC=1C(=C(C(=O)OC)C=CC1)I | C8H8INO2
reactant | triethylamine | 379 mmol, 52.8 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 505 mmol, 35.9 mL | C(C)(=O)Cl | C2H3ClO
solvent | methylene chloride | 1000 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | methyl 3-(acetylamino)-2-iodobenzoate | 76.6 g, yield 95% | C(C)(=O)NC=1C(=C(C(=O)OC)C=CC1)I | C10H10INO3
